US04772600
N-[2-(Acetylamino)ethyl]-2-(4-chlorphenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate [1:0.5]
A suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0174 mole), 1,1'-carbonyldiimidazole (2.82 g, 0.0174 mole) and dry tetrahydrofuran (100 ml) was stirred at room temperature for two hours with nitrogen bubbling through it. Solid N-acetylethylenediamine (4.44 g, 0.0435 mole) was added as well as 100 ml of tetrahydrofuran. A solid formed. After stirring overnight under nitrogen, the reaction mixture was evaporated to a white solid which was triturated in water (200 ml) overnight. The solid was collected by filtration, rinsed with water, dissolved in hot isopropyl alcohol and filtered hot. Water was added and the entire mixture was evaporated to a solid which was rinsed several times with light petroleum ether. The solid was dissolved in hot isopropyl alcohol and water was added to the cloud point. Upon cooling, solid precipitated, which was collected by filtration, and recrystallization again from isopropyl alcohol. Upon addition of water, the solid dissolved. All of the solvents were again evaporated under reduced pressure, and the resulting solid was again recrystallized from isopropyl alcohol to give 1.20 g (18%) of title compound, mp 247°-249° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0174 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0174 mole, 2.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-acetylethylenediamine | 0.0435 mole, 4.44 g | C(C)(=O)NCCN | C4H10N2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-[2-(Acetylamino)ethyl]-2-(4-chlorphenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide hydrate | 1.20 g, 18% | O.C(C)(=O)NCCNC(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)Cl)=O | InChI=1S/C18H18ClN5O2.H2O/c1-12(25)20-9-10-21-16(26)11-24-17(13-4-6-14(19)7-5-13)23-15-3-2-8-22-18(15)24;/h2-8H,9-11H2,1H3,(H,20,25)(H,21,26);1H2
